US09447091B2
a) Methyl 4-((5-acetamido-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)amino)-3-nitrobenzoate
A solution of N-(5-amino-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide (1.0 g, 3.813 mmol), methyl 4-fluoro-3-nitrobenzoate (0.835 g, 4.194 mmol, 1.1 eq.) and potassium fluoride (0.265 g, 4.457 mmol, 1.2 eq.) in DMF was heated at 130° C. for 16 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off to give the crude residue which was purified by column chromatography (60-120 silica gel, 40% ethyl acetate in hexane) to give the product in 48.78% yield (0.82 g).

reactant | N-(5-amino-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide | 3.813 mmol, 1.0 g | NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)NC(C)=O | C14H12F2N2O
reactant | methyl 4-fluoro-3-nitrobenzoate | 4.194 mmol, 0.835 g, 1.1 eq. | FC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6FNO4
reactant | potassium fluoride | 4.457 mmol, 0.265 g, 1.2 eq. | [F-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 4-((5-acetamido-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)amino)-3-nitrobenzoate | 48.78% yield | C(C)(=O)NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C22H17F2N3O5
